US06531502B1
LAH (2.6 g, 68 mmol) was added dropwise to a suspension of 3-[3-(4-methylpiperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydroindol-4-one (5 g, 17 mmol) in THF (300 mL). The mixture was then refluxed overnight. The mixture was then cooled and 2.6 mL each of water followed by a few drops of 15% NaOH was added. The reaction was stirred at room temperature for 30 min and then filtered to remove insolubles. The filtrate was concentrated to give 4.5 g (100%) of 3-[3-(4-methylpiperazin-1-yl)propyl]-4,5,6,7-tetrahydro-1H-indole.

reactant | LAH | 68 mmol, 2.6 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-[3-(4-methylpiperazin-1-yl)-3-oxo-propyl]-1,5,6,7-tetrahydroindol-4-one | 17 mmol, 5 g | CN1CCN(CC1)C(CCC1=CNC=2CCCC(C12)=O)=O | C16H23N3O2
reactant | water | 2.6 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | NaOH | a few drops | [OH-].[Na+]
product | 3-[3-(4-methylpiperazin-1-yl)propyl]-4,5,6,7-tetrahydro-1H-indole | 4.5 g, 100% | CN1CCN(CC1)CCCC1=CNC=2CCCCC12 | C16H27N3
